* Testbench: Mode Control — Normal Ramp (1 V/µs)
.include "parasitic_res_po.spice"
.lib "../sky130.lib.spice" tt
.include "design.cir"

.option method=gear reltol=1e-3 abstol=1e-12 vntol=1e-6 gmin=1e-12
.option itl1=300 itl2=200 itl4=50

Vbvdd bvdd gnd PWL(0 0 10.5u 10.5)
Vpvdd pvdd gnd 5.0
Vsvdd svdd gnd 2.2
Vref  vref gnd 1.226
Ven   en_ret gnd 0

XDUT bvdd pvdd svdd gnd vref en_ret bypass_en ea_en ref_sel uvov_en ilim_en pass_off mode_control

.tran 10n 12u uic

.control
run
set wr_singlescale
set wr_vecnames
wrdata ramp_normal.txt v(bvdd) v(bypass_en) v(ea_en) v(ref_sel) v(uvov_en) v(ilim_en) v(pass_off) v(xdut.comp1) v(xdut.comp2) v(xdut.comp3) v(xdut.comp4)

* Measure comp transitions: find where comp crosses 50% of BVDD
* Use fixed thresholds at different levels to detect rising edges
meas tran v_c1_r FIND v(bvdd) WHEN v(xdut.comp1) CROSS=1.5 RISE=1 TD=500n
meas tran v_c2_r FIND v(bvdd) WHEN v(xdut.comp2) CROSS=1.5 RISE=1 TD=500n
meas tran v_c3_r FIND v(bvdd) WHEN v(xdut.comp3) CROSS=1.5 RISE=1 TD=500n
meas tran v_c4_r FIND v(bvdd) WHEN v(xdut.comp4) CROSS=1.5 RISE=1 TD=500n

echo "=== Comparator Firing Points ==="
echo "comp1_fires_at: $&v_c1_r"
echo "comp2_fires_at: $&v_c2_r"
echo "comp3_fires_at: $&v_c3_r"
echo "comp4_fires_at: $&v_c4_r"

* Check output transitions
meas tran v_po_f FIND v(bvdd) WHEN v(pass_off) CROSS=1.0 FALL=1 TD=500n
meas tran v_by_r FIND v(bvdd) WHEN v(bypass_en) CROSS=1.0 RISE=1 TD=500n
meas tran v_ea_r FIND v(bvdd) WHEN v(ea_en) CROSS=1.0 RISE=1 TD=500n
meas tran v_uv_r FIND v(bvdd) WHEN v(uvov_en) CROSS=1.0 RISE=1 TD=500n
echo "pass_off_falls: $&v_po_f"
echo "bypass_en_rises: $&v_by_r"
echo "ea_en_rises: $&v_ea_r"
echo "uvov_en_rises: $&v_uv_r"

* Calculate threshold errors if measurements succeeded
if v_c1_r > 0
  let err1 = abs(v_c1_r - 2.5)/2.5*100
  let err2 = abs(v_c2_r - 4.2)/4.2*100
  let err3 = abs(v_c3_r - 4.5)/4.5*100
  let err4 = abs(v_c4_r - 5.6)/5.6*100
  echo "thresh_por_V: $&v_c1_r"
  echo "thresh_ret_V: $&v_c2_r"
  echo "thresh_pup_V: $&v_c3_r"
  echo "thresh_act_V: $&v_c4_r"
end

.endc

.end
